US05118816
Preparation of 2-Phenyl-N-(trifluoroacetyl)sarcosine
A mixture of 2-phenyl-N-(trifluoroacetyl)-glycine (2.5 g, 0.01 mol) and iodomethane (11.35 g, 0.08 mol) in tetrahydrofuran is treated portionwise with a 60% dispersion of sodium hydride in mineral oil (1.2 g, 0.03 mol NaH), stirred at ambient temperatures for 1 hour, heated at reflux temperature for 17 hours, cooled to room temperature, diluted with ethyl acetate followed by 1 mL of water and concentrated in vacuo to a wet yellow solid residue. The residue is dispersed in a mixture of ether and water. The ether layer is washed with a sodium bicarbonate solution. The aqueous phases are combined, acidified with 10% HCl and extracted with ethyl acetate. The ethyl acetate extract is washed sequentially with water, sodium thiosulfate and saturated sodium chloride solution, dried over MgSO4 and concentrated in vacuo to give a pale yellow solid which is recrystallized from methylcyclohexane to give the title compound as white crystals, 0.5 g, (19.1% yield), mp 124-126° C.

reactant | 2-phenyl-N-(trifluoroacetyl)-glycine | 0.01 mol, 2.5 g | C1(=CC=CC=C1)C(NC(C(F)(F)F)=O)C(=O)O | C10H8F3NO3
reactant | iodomethane | 0.08 mol, 11.35 g | IC | CH3I
reactant | sodium hydride | [H-].[Na+]
reactant | NaH | 0.03 mol, 1.2 g | [H-].[Na+]
reactant | water | 1 mL | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Phenyl-N-(trifluoroacetyl)sarcosine | 19.1% yield | C1(=CC=CC=C1)C(N(C)C(C(F)(F)F)=O)C(=O)O | C11H10F3NO3
